* AMS HF AC 04 - Concentrated interface lock-up
* Same total R/C scale as distributed ladder, but C concentrated at one interface.

.param RLEFT=500
.param RRIGHT=500
.param CINT=100p
Vin in 0 AC 1
Rleft in iface {RLEFT}
Cinterface iface 0 {CINT}
Rright iface out {RRIGHT}

.control
set filetype=ascii
ac dec 40 10 100Meg
wrdata 04_concentrated_interface_lockup.csv frequency v(out) i(Vin) v(iface)
quit
.endc

.end

