* AMS HF AC 08 - Same nominal impedance, different distribution
* Compares distributed vs concentrated storage in one file.

.param RSEG=100
.param CSEG=10p
.param RLEFT=500
.param RRIGHT=500
.param CINT=100p
VinA ina 0 AC 1
VinB inb 0 AC 1

* Route A: distributed ladder
RA1 ina a1 {RSEG}
CA1 a1 0 {CSEG}
RA2 a1 a2 {RSEG}
CA2 a2 0 {CSEG}
RA3 a2 a3 {RSEG}
CA3 a3 0 {CSEG}
RA4 a3 a4 {RSEG}
CA4 a4 0 {CSEG}
RA5 a4 a5 {RSEG}
CA5 a5 0 {CSEG}
RA6 a5 a6 {RSEG}
CA6 a6 0 {CSEG}
RA7 a6 a7 {RSEG}
CA7 a7 0 {CSEG}
RA8 a7 a8 {RSEG}
CA8 a8 0 {CSEG}
RA9 a8 a9 {RSEG}
CA9 a9 0 {CSEG}
RA10 a9 outa {RSEG}
CA10 outa 0 {CSEG}

* Route B: concentrated interface
RBleft inb biface {RLEFT}
CBinterface biface 0 {CINT}
RBright biface outb {RRIGHT}

.control
set filetype=ascii
ac dec 40 10 100Meg
wrdata 08_same_impedance_different_distribution.csv frequency v(outa) v(outb) i(VinA) i(VinB) v(a5) v(biface)
quit
.endc

.end

